US05047554
5-Chloro-3-(5-bromo-3-thenoyl)-2-oxindole-1-carboxamide
The title compound was prepared according to the procedure of Example 55. A 100 g (4.83 mmole) portion of 5-bromo-3-thiophenecarboxylic acid (prepared as described in J. Am. Chem. Soc., 76, 2445 (1954)) was combined with 848 mg (5.23 mmole) of 1,1'-carbonyl-diimidazole in 5 ml of N,N-dimethylformamide and the intermediate imidazolide coupled directly with 848 mg (4.02 mmole) of 5-chloro-2-oxindole-1-carboxamide in the presence of 1.33 g (10.89 mmole) of 4-(N,N-dimethylamino)pyridine. The resulting crude green product (1.22 g, 76% yield) was recrystallized to furnish 540 mg (1.35 mmole, 34% yield) of yellow solid, m.p. 238°-40° C. (acetic acid).

reactant | 5-bromo-3-thiophenecarboxylic acid | BrC1=CC(=CS1)C(=O)O | C5H3BrO2S
reactant | 1,1'-carbonyl-diimidazole | 5.23 mmole, 848 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | imidazolide | [N-]1C=NC=C1
reactant | 5-chloro-2-oxindole-1-carboxamide | 4.02 mmole, 848 mg | ClC=1C=C2CC(N(C2=CC1)C(=O)N)=O | C9H7ClN2O2
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
catalyst | 4-(N,N-dimethylamino)pyridine | 10.89 mmole, 1.33 g | CN(C)C1=CC=NC=C1 | C7H10N2
product | 5-Chloro-3-(5-bromo-3-thenoyl)-2-oxindole-1-carboxamide | ClC=1C=C2C(C(N(C2=CC1)C(=O)N)=O)C(C1=CSC(=C1)Br)=O | C14H8BrClN2O3S
